US05359068
2,5-Dichloro-4-nitrophenylacetaldehyde
2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene (10 g, 38.3 mmol) was dissolved in methylene chloride (200 ml) and stirred with a solution of oxalic acid (14.5 g, 115 mmol) in water (80 ml) at room temperature for 18 hours. The layers were separated and the aqueous layer extracted with methylene chloride (50 ml). The combined organic layers were washed with water and brine, dried over magnesium sulfate and filtered. The solution was evaporated to yield the title compound. NMR (CDCl3) δ 9.70 (s, 1), 8.01 (s, 1), 7.49 (s, 1), 3.98 (s, 2).

reactant | 2,5-Dichloro-4-(2-dimethylaminoethenyl)-nitrobenzene | 38.3 mmol, 10 g | ClC1=C(C=C(C(=C1)C=CN(C)C)Cl)[N+](=O)[O-] | C10H10Cl2N2O2
reactant | oxalic acid | 115 mmol, 14.5 g | C(C(=O)O)(=O)O | C2H2O4
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 80 ml | O | H2O
product | 2,5-Dichloro-4-nitrophenylacetaldehyde | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)CC=O | C8H5Cl2NO3
